US08455477B2
Ethyl 4-hydroxy-3,4-dihydro-1,5-naphthyridine-3-carboxylate (1.8 g, 8.2 mmol) was dissolved in 4% aqueous sodium hydroxide (80 ml). The reaction mixture was heated to reflux for 4 hours, cooled to room temperature, and then adjusted to pH=4 with 2N hydrochloric acid. The reaction mixture was filtered to give 4-hydroxy-3,4-dihydro-1,5-naphthyridine-3-carboxylic acid.

reactant | Ethyl 4-hydroxy-3,4-dihydro-1,5-naphthyridine-3-carboxylate | 8.2 mmol, 1.8 g | OC1C(C=NC2=CC=CN=C12)C(=O)OCC | C11H12N2O3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | sodium hydroxide | 80 ml | [OH-].[Na+]
product | 4-hydroxy-3,4-dihydro-1,5-naphthyridine-3-carboxylic acid | OC1C(C=NC2=CC=CN=C12)C(=O)O | C9H8N2O3
